US06559179B1
b) Diethyl[4-(2,6-dichlorobenzyloxy)benzylidene]malonate
To a solution of 4-(2,6-dichlorobenzyloxy)benzaldehyde (5.62 g, 20 mmol) and diethyl malonate (3.52 g, 22 mmol) in benzene (75 mL), were added piperidine (90 μL) and glacial acetic acid (0.25 mL). After refluxing for 24 h with azeotropic water removal, the cooled reaction was concentrated in vacuo then partitioned between ether and water. The organic extract was washed successively with 1N hydrochloric acid, saturated sodium bicarbonate solution, water, brine and dried (MgSO4). Removal of volitiles in vacuo afforded the crude title compound (8.35 g, 97%) which was used in the next step without farther purification.

reactant | 4-(2,6-dichlorobenzyloxy)benzaldehyde | 20 mmol, 5.62 g | ClC1=C(COC2=CC=C(C=O)C=C2)C(=CC=C1)Cl | C14H10Cl2O2
reactant | diethyl malonate | 22 mmol, 3.52 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | piperidine | 90 μL | N1CCCCC1 | C5H11N
reactant | acetic acid | 0.25 mL | C(C)(=O)O | C2H4O2
solvent | benzene | 75 mL | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | Diethyl[4-(2,6-dichlorobenzyloxy)benzylidene]malonate | 8.35 g, 97% | C(C)OC(C(C(=O)OCC)=CC1=CC=C(C=C1)OCC1=C(C=CC=C1Cl)Cl)=O | C21H20Cl2O5
